US08937091B2
2-(hydroxyethylisopropyl)aminoethyl-3-thiophenylketone 8675
3-acetylthiophene (121 mg), isopropyl-2-hydroxyethyl amine (126 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 130° C. for 2 hours.

reactant | 3-acetylthiophene | 121 mg | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | isopropyl-2-hydroxyethyl amine | 126 mg | C(C)(C)NCCO | C5H13NO
reactant | paraformaldehyde | 36 mg | C=O | CH2O
reactant | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(hydroxyethylisopropyl)aminoethyl-3-thiophenylketone | OCCC(C)(C)NCCC(=O)C1=CSC=C1 | C12H19NO2S
